US04319916
1-Methyl-3-propionyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 29.1 g. portion of 1-(3-trifluoromethylphenyl)-2,4-hexanedione was combined with 120 ml. of N,N-dimethylformamide dimethyl acetal and the mixture was stirred under reflux overnight. The mixture was then evaporated to a thick dark brown oil under vacuum, and the residue was dissolved in 250 ml. of methanol. Forty g. of methylamine hydrochloride was added and the mixture was stirred under reflux for 2 hours, and at ambient temperature for 60 hours. The mixture was then evaporated under vacuum to dryness, and the residue was taken up in water and diethyl ether. The organic layer was dried over magnesium sulfate and evaporated under dryness to a dark brown solid, which was chromatographed on a 500 g. silica gel column with ethyl acetate as the eluting solvent. The product-containing fractions were combined and evaporated under vacuum to obtain a light orange solid, which was crystallized from diisopropyl ether to obtain 3.04 g. of the desired product, m.p. 136°-138°. Nmr analysis in DMSOd6 showed peaks at δ7.6-8.3 (m, 6H, aromatic); 3.8 (s, 3H, N--CH3); 2.9-3.3 (q, 2H, COCH2CH3); 0.9-1.1 (t, 3H, COCH2CH3).

reactant | 1-(3-trifluoromethylphenyl)-2,4-hexanedione | FC(C=1C=C(C=CC1)CC(CC(CC)=O)=O)(F)F | C13H13F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | 1-Methyl-3-propionyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | CN1C=C(C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C(CC)=O | C16H14F3NO2
